2145-08-13 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt had 3 units of RBCs and 3 units of FFP
   emesis of stomach contents, non-bloody yellow
   Blood Pressure low in 80-90
s systolic. Given 250cc bolus x 2.
   NO BM
s despite lactulose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-12**] 10:27 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 73 (65 - 82) bpm
   BP: 104/55(66) {77/41(45) - 106/61(70)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,635 mL
                                                                  1,270 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                    304 mL
                                                                    634 mL
   Blood products:
                                                                  1,211 mL
                                                                    637 mL
   Total out:
                                                                    880 mL
                                                                    840 mL
   Urine:
                                                                    880 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Vitals: T: 98 BP: 100/41 P: 70 R: 14  O2: 100%
   General: Awake but mildly confused, English is secondary language
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, loud bowel sounds, no
   rebound tenderness or guarding, spider angiomas present
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, trace edema, varices
   on left LE
   Neuro: + Asterixis, strength 5/5 in all extremities
   Labs / Radiology
   60 K/uL
   9.1 g/dL
   124
   1.9
   16
   4.2
   35
   112
   139
   25.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
   WBC
   4.7
   5.9
   Hct
   24.3
   25.8
   Plt
   57
   60
   Other labs: PT / PTT / INR:19.2/39.9/1.8, Fibrinogen:135 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LOCAL SKIN INFECTION NOS
 HEPATIC ENCEPHALOPATHY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTRIC VARICES / PORTAL HYPERTENSIVE GASTROPATHY
   57 yo m with hx of ESLD on transplant list admitted with uremia and
   acute renal failure, now transfered to the MICU due to acute drop in
   hct and concern for GI bleed.
   .
   # Acute Anemia: concern for GI source. Has hx of grade II varices on
   recent EGD. Pt may have had bleed prior to admission, which would
   explain prerenal ARF. Responded so far to blood products.
   - IV PPI [**Hospital1 **]
   - EGD today by liver
   - Q4H hcts
   - transfuse to 25
   - giving FFP with blood
   - guaiac stools
   - 2 large bore IVs
   - Active type and screen
   - NPO for now
   -  received boluses for hypotension
   - cipro for SBP prophylaxis
   - CT abd/pelvis to rule out other sources of bleeding
   # Hypotension: Question hypovolemia [**1-4**] bleed, volume depletion or [**1-4**]
   infection
   - IVFs prn
   - transfuse PRn
   - f/u cx
   - continue abx
   - Keep MAP 60
   .
   # Acute renal failure: concern initially for hepatorenal syndrome,
   however, Cr improved with albumin challenge, so not HRS. Likely
   prerenal, may be due to GI bleed or from too many diuretics. Uremia is
   likely contributing to his AMS. Creatinine improved significantly with
   fluid and blood
   - IVFs PRN for low urine output
   - s/p albumin 75g x 2 days
   - renally dose meds
   - holding diuretics for now
   .
   # Coagulopathy: INR elevated to 2.3, likely from liver disease. Some
   decreased in fibrinogen and low haptoglobin, however, smear without
   schistocytes so no hemolysis.  S/P 3U FFP this AM.
   - monitor coags
   - will give FFP as needed for procedures
   - vitamin K given on floor x 1
   # Elevated indirect hyperbilirubinemia likely secondary to bleed and
   additional blood products.
   - trend LFTs
   # ESLD/Encephalopathy: Has cirrhosis [**1-4**] etoh use, no etoh since [**2142**].
   Now on transplant list. Has AMS likely from uremia + liver failure.
   +asterixis.
   - lactulose Q6H, or until 3 BMs per day
   - liver recs appreciated
   - monitor LFTs, INR, and Cr
   - f/u cx on paracentesis fluid
   - holding nadolol due to low blood pressures; restart when BP stable
   - continue cipro for SBP ppx
   - f/u on paracentesis cx
   .
   # FEN: replete electrolytes, NPO for procedure, IVFS prn
   .
   # Prophylaxis: pneumoboots , lactulose
   .
   # Access: peripherals- 2- 18 gauge IVs
   .
   # Code:  Full (discussed with patient)
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   :
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   20 Gauge - [**2145-8-12**] 05:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2145-08-13 09:51:00 Physician Attending Progress Note
Chief Complaint: Anemia, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Borderline hypotension this am, received 2 bolud of 500cc of saline.
   Vomiting of non bloody emesis this am x2.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-12**] 10:27 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   ferrous sulfate, rifaximin, lactulose, clotrimazole, ciproflox, zofran
   for nausea.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-13**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 76 (65 - 82) bpm
   BP: 90/46(57) {77/41(45) - 106/75(78)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,635 mL
                                                                  1,865 mL
   PO:
                                                                    120 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    304 mL
                                                                  1,189 mL
   Blood products:
                                                                  1,211 mL
                                                                    637 mL
   Total out:
                                                                    880 mL
                                                                  1,060 mL
   Urine:
                                                                    880 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, shifting dullness
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   64 K/uL
   124 mg/dL
   1.9 mg/dL
   16 mEq/L
   4.2 mEq/L
   35 mg/dL
   112 mEq/L
   139 mEq/L
   27.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
                             [**2145-8-13**]  08:18 AM
   WBC
   4.7
   5.9
   5.8
   Hct
   24.3
   25.8
   27.6
   Plt
   57
   60
   64
   Cr
   1.9
   Glucose
   124
   Other labs: PT / PTT / INR:19.4/40.8/1.8, ALT / AST:25/43, Alk Phos / T
   Bili:66/7.7, Fibrinogen:135 mg/dL, Albumin:3.3 g/dL, LDH:163 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Microbiology: pancultures pending.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)/Anemia: with known coagulopathy from liver
   disease, and hct drop to 17
   will obtain abd CT to assess for intraperiotneal vs RP bleed. Will get
   endoscopy to assess for variceal bleed today. COntinue fluid
   resucitation goal MAP >65. Holding diuretics. On cipro for SBP
   prophylaxis. Holding off bblockers given significant bradycardia and
   hypotension for hypertension.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   EGD and ABdominal CT as above. No evidence of schistocytes on smear. 2
   large bore iv's in place.
 HEPATIC ENCEPHALOPATHY:
   on lactulose, rifaxmin, start lactulose enema.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   resolving s/p blood transfusion and iv fluids and holding diuretic.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   20 Gauge - [**2145-8-12**] 05:23 PM
   Prophylaxis:
   DVT: Boots(clarify with liver team re heparin s/c)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2145-08-14 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
   - hct stable
   - EGD scheduled for 8am on today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-13**] 10:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-14**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 74 (68 - 81) bpm
   BP: 102/50(63) {81/38(48) - 123/67(79)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,639 mL
                                                                    142 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,882 mL
                                                                    142 mL
   Blood products:
                                                                    637 mL
   Total out:
                                                                  2,290 mL
                                                                    460 mL
   Urine:
                                                                  2,290 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                   -318 mL
   Respiratory support
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General: sleepy
 received meds for EGD
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, loud bowel sounds, no
   rebound tenderness or guarding, spider angiomas present
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, trace edema, varices
   on left LE
   Neuro: + Asterixis, strength 5/5 in all extremities
   Labs / Radiology
   58 K/uL
   8.9 g/dL
   100 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.8 mEq/L
   24 mg/dL
   112 mEq/L
   141 mEq/L
   26.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
                             [**2145-8-13**]  08:18 AM
                             [**2145-8-13**]  02:30 PM
                             [**2145-8-14**]  05:13 AM
   WBC
   4.7
   5.9
   5.8
   5.9
   Hct
   24.3
   25.8
   27.6
   27.4
   26.1
   Plt
   57
   60
   64
   58
   Cr
   1.9
   1.6
   1.5
   Glucose
   124
   100
   Other labs: PT / PTT / INR:21.9/41.9/2.0, ALT / AST:24/44, Alk Phos / T
   Bili:66/9.7, Fibrinogen:135 mg/dL, Albumin:3.3 g/dL, LDH:157 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LOCAL SKIN INFECTION NOS
 HEPATIC ENCEPHALOPATHY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTRIC VARICES / PORTAL HYPERTENSIVE GASTROPATHY
   57 yo m with hx of ESLD on transplant list admitted with uremia and
   acute renal failure, now transfered to the MICU due to acute drop in
   hct and concern for GI bleed.
   # Acute Anemia: hct has been stable overnight.  High concern for  GI
   source. Has hx of grade II varices on recent EGD. Pt may have had bleed
   prior to admission, which would explain prerenal ARF. Responded so far
   to blood products. [**Doctor Last Name 1989**] have been guaiac neg.
   - EGD showed 4 cords, grade 2 which were banded.  Rec carafate, po ppi
   qd, repeat banding in several weeks
   - q12 hour hct
   - transfuse to 25
   - 2 large bore IVs
   - Active type and screen
   - cipro for SBP prophylaxis in setting of bleed
 total of 5 days
   # Hypotension: Resolved,  SBP's 100's.  Question hypovolemia [**1-4**] bleed,
   volume depletion or [**1-4**] infection
   - f/u cx
   - continue abx
   - Keep MAP 60
   # Acute renal failure: Continues to improve, Cr 1.5 this am.  Concern
   initially for hepatorenal syndrome, however, Cr improved with albumin
   challenge, so not HRS. Likely prerenal, may be due to GI bleed or from
   too many diuretics. Uremia is likely contributing to his AMS.
   Creatinine improved significantly with fluid and blood
   - IVFs PRN for low urine output
   - s/p albumin 75g x 2 days
   - renally dose meds
   - holding diuretics for now
   # Coagulopathy: INR down to 2.0 from 2.3, likely from liver disease.
   Some decreased in fibrinogen and low haptoglobin, however, smear
   without schistocytes so no hemolysis.  S/P 3U FFP yesterday.
   - monitor coags
   - will give FFP as needed for procedures
   - vitamin K given on floor x 1
   # Elevated indirect hyperbilirubinemia likely secondary to bleed and
   additional blood products.
   - trend LFTs
   # ESLD/Encephalopathy: Has cirrhosis [**1-4**] etoh use, no etoh since [**2142**].
   Now on transplant list. Has AMS likely from uremia + liver failure.
   +asterixis.
   - lactulose Q6H, or until 3 BMs per day
   - liver recs appreciated
   - monitor LFTs, INR, and Cr
   - f/u cx on paracentesis fluid
   - will restart  nadolol at low dose
   - continue cipro for SBP ppx as above
   - f/u on paracentesis cx
   # FEN: replete electrolytes, low salt diet, IVFS prn
   # Prophylaxis: pneumoboots , lactulose
   # Access: peripherals- 2- 18 gauge IVs
   # Code:  Full (discussed with patient)
   # Communication: Patient
   # Disposition: c/o to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   20 Gauge - [**2145-8-12**] 05:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-08-14 09:41:00 Physician Attending Progress Note
Chief Complaint: GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   hct stable, s/p EGD with banding x3 this am.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-13**] 10:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   ferrous sulfate 325 po bid, rifaximin, lactulose, clotrimazole,
   ciprofloxacin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-14**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 71 (68 - 81) bpm
   BP: 114/80(88) {81/38(48) - 123/80(88)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,639 mL
                                                                    188 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,882 mL
                                                                    188 mL
   Blood products:
                                                                    637 mL
   Total out:
                                                                  2,290 mL
                                                                    540 mL
   Urine:
                                                                  2,290 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), faint flow murmur RLSB.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   58 K/uL
   100 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.8 mEq/L
   24 mg/dL
   112 mEq/L
   141 mEq/L
   26.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
                             [**2145-8-13**]  08:18 AM
                             [**2145-8-13**]  02:30 PM
                             [**2145-8-14**]  05:13 AM
   WBC
   4.7
   5.9
   5.8
   5.9
   Hct
   24.3
   25.8
   27.6
   27.4
   26.1
   Plt
   57
   60
   64
   58
   Cr
   1.9
   1.6
   1.5
   Glucose
   124
   100
   Other labs: PT / PTT / INR:21.9/41.9/2.0, ALT / AST:24/44, Alk Phos / T
   Bili:66/9.7, Fibrinogen:135 mg/dL, Albumin:3.3 g/dL, LDH:157 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK): resolved.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING): hct
   stable variceal bleed, vs Rp bleed vs other as he has no significant
   hematemesis or melena, currently hct stable, s/p EGD with banding but
   no clear stigmata of recent bleeding. Will not pursue further imaging
   as hct has been stable. Restart home Nadolol. change Cipro to po will
   treat for 7days. check pm hct.
 HEPATIC ENCEPHALOPATHY
   continue lactulose and rifaximin
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   improved s/p albumin and fluid challenge was likely in context of bleed
   ICU Care
   Nutrition:
   Comments: advance diet ast tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   Prophylaxis:
   DVT: Boots(due to prolonged INR. )
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2145-08-15 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: EGD with 4 cords of Grad3 2 varices and stigmat of
   bleeding. Banded 2 cords with 2 clips each.
   Started carafate. Advanced to soft diet.
   24 Hour Events:
 ENDOSCOPY - At [**2145-8-14**] 08:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-13**] 10:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-8-14**] 09:10 AM
   Midazolam (Versed) - [**2145-8-14**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-15**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 77 (66 - 88) bpm
   BP: 91/74(78) {90/47(58) - 121/92(98)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.8 kg
   Height: 70 Inch
             Total In:
                                                                  1,657 mL
                                                                     79 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    697 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    250 mL
   Urine:
                                                                  1,325 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   51 K/uL
   8.7 g/dL
   133 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   136 mEq/L
   25.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
                             [**2145-8-13**]  08:18 AM
                             [**2145-8-13**]  02:30 PM
                             [**2145-8-14**]  05:13 AM
                             [**2145-8-14**]  04:15 PM
                             [**2145-8-15**]  04:14 AM
   WBC
   4.7
   5.9
   5.8
   5.9
   5.8
   5.8
   Hct
   24.3
   25.8
   27.6
   27.4
   26.1
   27.4
   25.4
   Plt
   57
   60
   64
   58
   55
   51
   Cr
   1.9
   1.6
   1.5
   1.4
   Glucose
   124
   100
   133
   Other labs: PT / PTT / INR:21.9/41.9/2.0, ALT / AST:24/44, Alk Phos / T
   Bili:66/9.7, Fibrinogen:135 mg/dL, Albumin:3.3 g/dL, LDH:157 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LOCAL SKIN INFECTION NOS
 HEPATIC ENCEPHALOPATHY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTRIC VARICES / PORTAL HYPERTENSIVE GASTROPATHY
   57 yo m with hx of ESLD on transplant list admitted with uremia and
   acute renal failure, now transfered to the MICU due to acute drop in
   hct and concern for GI bleed.
   # Acute Anemia: hct slightly decreased to 25 this AM.  Evidence of
   recent variceal bleed on EGD. Has hx of grade II varices. Pt may have
   had bleed prior to admission, which would explain prerenal ARF. Stool
   have been guaiac neg. EGD with  4 cords, grade 2 which were banded.
   - carafate, po ppi qd
   - repeat banding in several weeks
   - q12 hour hct
   - transfuse to 25
   - 2 large bore IVs
   - Active type and screen
   - cipro for SBP prophylaxis in setting of bleed
 total of 5 days
   - restarted on nadolol
   # Hypotension: Resolved,  SBP's 100's.  Question hypovolemia [**1-4**] bleed,
   volume depletion or [**1-4**] infection
   - f/u cx
   - continue abx
   - Keep MAP 60
   - hold off on further fluid boluses for now
   # Acute renal failure: Continues to improve, Cr 1.4 this am.  Concern
   initially for hepatorenal syndrome, however, Cr improved with albumin
   challenge, so not HRS. Likely prerenal, may be due to GI bleed or from
   too many diuretics. Uremia is likely contributing to his AMS.
   Creatinine improved significantly with fluid and blood
   - IVFs PRN for low urine output
   - s/p albumin 75g x 2 days
   - renally dose meds
   - holding diuretics for now
   # Coagulopathy: INR down to 2.0 from 2.3, likely from liver disease.
   Some decreased in fibrinogen and low haptoglobin, however, smear
   without schistocytes so no hemolysis.
   - monitor coags
   - will give FFP as needed for procedures
   - vitamin K given on floor x 1
   # Elevated indirect hyperbilirubinemia likely secondary to bleed and
   additional blood products.
   - trend LFTs
   # ESLD/Encephalopathy: Has cirrhosis [**1-4**] etoh use, no etoh since [**2142**].
   Now on transplant list. Has AMS likely from uremia + liver failure. Now
   no asterixis.
   - lactulose Q6H, or until 3 BMs per day
   - liver recs appreciated
   - monitor LFTs, INR, and Cr
   - f/u cx on paracentesis fluid
   - will restart  nadolol at low dose
   - continue cipro for SBP ppx as above
   - f/u on paracentesis cx
   # FEN: replete electrolytes, low salt diet, IVFS prn
   # Prophylaxis: pneumoboots , lactulose
   # Access: peripherals- 2- 18 gauge IVs
   # Code:  Full (discussed with patient)
   # Communication: Patient
   # Disposition: c/o to floor
   ICU Care
   Nutrition: low salt diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor today

2145-08-15 10:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GIB, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57yo M with cirrhosis a/w UTI and renal failure, found to be anemic
   with varcies on EGD, now stable.
   24 Hour Events:
 ENDOSCOPY - At [**2145-8-14**] 08:45 AM; varices banded
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-8-13**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-8-15**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 85 (66 - 88) bpm
   BP: 98/53(65) {91/47(61) - 121/92(98)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.8 kg
   Height: 70 Inch
             Total In:
                                                                  1,657 mL
                                                                    342 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    697 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    370 mL
   Urine:
                                                                  1,325 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                    -28 mL
   Respiratory support
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, hyperactive bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person/place/time, Movement: Purposeful, Tone:
   Not assessed, no asterixis
   Labs / Radiology
   8.7 g/dL
   51 K/uL
   133 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   136 mEq/L
   25.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2145-8-12**]  11:40 PM
                             [**2145-8-13**]  05:48 AM
                             [**2145-8-13**]  08:18 AM
                             [**2145-8-13**]  02:30 PM
                             [**2145-8-14**]  05:13 AM
                             [**2145-8-14**]  04:15 PM
                             [**2145-8-15**]  04:14 AM
   WBC
   4.7
   5.9
   5.8
   5.9
   5.8
   5.8
   Hct
   24.3
   25.8
   27.6
   27.4
   26.1
   27.4
   25.4
   Plt
   57
   60
   64
   58
   55
   51
   Cr
   1.9
   1.6
   1.5
   1.4
   Glucose
   124
   100
   133
   Other labs: PT / PTT / INR:21.9/41.9/2.0, ALT / AST:24/44, Alk Phos / T
   Bili:66/9.7, Fibrinogen:135 mg/dL, Albumin:3.3 g/dL, LDH:157 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   - likely near baseline, will try to avoid boluses of fluid
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - s/p banding of varices
   - continue PPI, soft diet, nadolol
   - on cipro x 5 days for SBP prophylaxis, day [**2-4**]
   - for repeat banding in
 HEPATIC ENCEPHALOPATHY
   - on rifaximin/lactulose, will titrate lactulose to at least [**2-3**] BM/day
   - no encephalopathy today
   - on transplant list
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - continues to improve, likely pre-renal
   - trend to baseline, consider restarting diuretics today or tomorrow
COAGULOPATHY:
   - stable s/p vitamin K
   ICU Care
   Nutrition:
   Comments: soft diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-8-12**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes